US08664258B2
Preparation of N-[4-(2-Amino-2-methyl-propoxy)-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenyl]-3-trifluoromethyl-benzamide (Compound 89)
A solution of 3-trifluoromethylbenzoyl chloride (17 μl, 0.11 mmol), N,N-diisopropylethylamine (21 μl, 0.12 mmol) and 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)aniline (37 mg, 0.10 mmol) in 0.5 mL of dichloromethane was stirred at room temperature. After 1 h the solution was diluted with dichloromethane, washed with 1M hydrochloric acid and saturated sodium bicarbonate, dried with sodium sulfate, filtered, and evaporated to dryness. The residue was taken up in methanol (0.4 mL), acetic acid (114 μl, 2.0 mmol) was added followed by zinc dust (65 mg, 1.0 mmol) and the mixture was stirred at room temperature. After 1 h the mixture was made strongly basic with conc. ammonium hydroxide, and the product was extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried with sodium sulfate, filtered, and evaporated to dryness. The crude product was purified by preparative LCMS and lyophilized to afford the product (46 mg, 74%) as a TFA-salt. LCMS m/z (%)=513.5 (M+H 81Br 71.7%), 511.3 (M+H 79Br 82.9%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.17 (s, 3 H), 1.18 (s, 3 H), 3.67 (s, 3 H), 3.84 (d, J=9.60 Hz, 1 H), 4.00 (d, J=9.85 Hz, 1 H), 7.31 (d, J=9.09 Hz, 1 H), 7.67 (s, 1 H), 7.70 (d, J=2.78 Hz, 1 H), 7.80 (t, J=7.71 Hz, 1 H), 7.86-7.94 (m, 3 H), 7.94-8.01 (m, 2 H), 8.26 (d, J=8.08 Hz, 1 H), 8.29 (s, 1 H), 10.57 (s, 1 H).

reactant | 3-trifluoromethylbenzoyl chloride | 0.11 mmol, 17 μl | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
reactant | N,N-diisopropylethylamine | 0.12 mmol, 21 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)aniline | 0.10 mmol, 37 mg | BrC1=C(N(N=C1)C)C=1C=C(N)C=CC1OCC(C)([N+](=O)[O-])C | C14H17BrN4O3
reactant | acetic acid | 2.0 mmol, 114 μl | C(C)(=O)O | C2H4O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
catalyst | zinc | 1.0 mmol, 65 mg | [Zn] | Zn
product | N-[4-(2-Amino-2-methyl-propoxy)-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenyl]-3-trifluoromethyl-benzamide | 46 mg, 74% | NC(COC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C=1N(N=CC1Br)C)(C)C | C22H22BrF3N4O2
